datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:10],63.6386
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([S:11][H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:10]([S:11][H:14])([H:12])[H:13],23.012
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])[H:13])([H:10])[H:11])([H:9])[H:12])[H:8])([H:6])[H:7],192.882
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[S:4])[H:11])([H:5])([H:6])[H:7].[c:12]1([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[S:4])[H:11])[H:18])([H:5])([H:6])[H:7].[c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23],143.093
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])[O:7][O:8][H:19])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[C:4]([H:16])[H:17])[H:15])[O:7][O:8][H:19])([H:9])([H:10])[H:11].[O:5][O:6][H:18],62.76
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])[H:12])([H:10])[H:11],125.102
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8],52.551
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11],43.5136
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23],-10.46
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:7])[H:14])[H:10])([H:8])[H:9],87.0272
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:10],43.8902
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[S:15])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:18])[H:5].[C:12](=[C:13][C:14](=[S:15])[H:19])([H:16])[H:17],105.646
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:20])([H:21])[H:22])([C:14](=[C:15]([H:24])[H:25])[H:23])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:19])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:20])([H:21])[H:22])[C:14](=[C:15]([H:24])[H:25])[H:23])[H:18])([H:16])[H:17],-6.6944
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[O:7][C:8]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([H:12])[H:13])[H:11])([H:9])([H:10])[H:16].[C:3](=[C:4]([C:5](=[O:6])[O:7][C:8]([H:18])([H:19])[H:20])[H:17])([H:14])[H:15],198.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[H:13])[C:5]([C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1[C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:8]([C:9]([H:24])([H:25])[H:26])([H:23])[C:7]([H:21])([H:22])[C:6]([H:19])([H:20])[C:5]1([H:17])[H:18])[H:12])([H:10])[H:11],27.6562
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]1[C:6]([H:16])=[C:7]([H:17])[C:8]([H:18])[C:9]1([H:19])[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]1[C:6]([H:16])=[C:7]([H:17])[C:8]([H:18])([H:19])[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11],66.1072
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]#[C:6][H:13])[C:7]#[C:8][H:14])[H:9].[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]#[C:6][H:13])[C:7]#[C:8][H:14])[H:15])[H:9],8.5772
